US05470851
1-{2-[α-(4-Chlorophenyl)benzyloxy]ethyl}piperazine
Following a procedure similar to that described in Preparation 1, but using 2-[α-(4-chlorophenyl)benzyloxy]ethyl chloride and anhydrous piperazine, the title compound was obtained in a yield of 73%.

reactant | 2-[α-(4-chlorophenyl)benzyloxy]ethyl chloride | ClC1=CC=C(C=C1)C(C1=CC=CC=C1)OCCCl | C15H14Cl2O
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 1-{2-[α-(4-Chlorophenyl)benzyloxy]ethyl}piperazine | yield of 73% | ClC1=CC=C(C=C1)C(C1=CC=CC=C1)OCCN1CCNCC1 | C19H23ClN2O
